US04133881
α,α-Diphenyl-α-(1-methyl-3-azetidinyl)acetamide Hydrochloride
To 60 ml. of concentrated sulfuric acid preheated to 60° C. was added 21.7 g. (0.082 mole) of α,α-diphenyl-α-(1-methyl-3-azetidinyl)acetonitrile at a rate so as to maintain a temperature of 60°-70° C. The solution obtained was heated to 70° C. for 18 hrs. and extracted with chloroform. The chloroform extract was dried over sodium sulfate and concentrated and the residue crystallized from ethyl acetate-isopropyl alcohol to give 13.8 g. of the free base (60%) melting at 171°-174° C. The base was treated with hydrogen chloride in isobutyl methyl ketone and the salt recrystallized from isopropyl alcohol to give 9 g. of product melting at 182°-185° C.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | α,α-diphenyl-α-(1-methyl-3-azetidinyl)acetonitrile | 0.082 mole | C1(=CC=CC=C1)C(C#N)(C1CN(C1)C)C1=CC=CC=C1 | C18H18N2
reactant | hydrogen chloride | Cl | ClH
solvent | isobutyl methyl ketone | CC(=O)CC(C)C | C6H12O
product | α,α-Diphenyl-α-(1-methyl-3-azetidinyl)acetamide Hydrochloride | Cl.C1(=CC=CC=C1)C(C(=O)N)(C1CN(C1)C)C1=CC=CC=C1 | InChI=1S/C18H20N2O.ClH/c1-20-12-16(13-20)18(17(19)21,14-8-4-2-5-9-14)15-10-6-3-7-11-15;/h2-11,16H,12-13H2,1H3,(H2,19,21);1H
